US08614242B2
9.1 g of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxylic acid and 75.5 ml of thionyl chloride are refluxed for 1.5 hours. After cooling down, the reaction mixture is evaporated under vacuum to yield 10 g of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride as a yellow oil. GC-MS; observed M/z:Molecular ion: (M+.)=212; fragments: (M+.—Cl)=177 and (M+.—F)=193.

reactant | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxylic acid | 9.1 g | FC(C1=NN(C(=C1C(=O)O)F)C)F | C6H5F3N2O2
reactant | thionyl chloride | 75.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride | 10 g | FC(C1=NN(C(=C1C(=O)Cl)F)C)F | C6H4ClF3N2O
